US04962145
Diglycerol sesquimontanate
112 g diglycerol (0.67 mole), 400 g montanic acid (1.0 mole) and 0.4 g tin powder were heated to 200° C. as in Example 1 with application of a gentle vacuum. The vacuum was increased to 24 mbar over a period of 3.4 h. The product had an acid value of approximately 1. A brown colored hard wax having a dropping point of 81° C. was obtained after cooling to 100° C., bleaching and filtering.

reactant | diglycerol | 0.67 mole, 112 g | C(C(COCC(CO)O)O)O | C6H14O5
reactant | montanic acid | 1.0 mole, 400 g | C(CCCCCCCCCCCCCCCCCCCCCCCCCCC)(=O)O | C28H56O2
reactant | tin | 0.4 g | [Sn] | Sn
product | Diglycerol sesquimontanate | C(CCCCCCCCCCCCCCCCCCCCCCCCCCC)(=O)O.OCC(O)CO.OCC(O)CO | InChI=1S/C28H56O2.2C3H8O3/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-19-20-21-22-23-24-25-26-27-28(29)30;2*4-1-3(6)2-5/h2-27H2,1H3,(H,29,30);2*3-6H,1-2H2
